US06506901B2
Step A: [1-(4-(Pyrazol-1-yl)-benzenesulfonyl)-piperidin-4-ylmethyl]-carbamic Acid t-Butyl Ester
To a stirred mixture of hexane washed potassium hydride (0.08 g, 2 mmol) in 5 mL of DMF was added pyrazole (0.136 g, 2 mmol) in one portion. Stirring was continued until gas evolution ceased. A solution of [1-(4-aminobenzenesulfonyl)-piperidin-4-ylmethyl]-carbamic acid t-butyl ester (0.745 g, 2 mmol) in 5 mL DMF was added and the solution was heated at 70° C. overnight. The reaction mixture was poured into water and the solids formed collected and dried (high vac). The crude product was purified by flash chromatography (silica Merck 60, CH2Cl2—CH3OH, 19:1) to give 0.258 g of the product as a white solid.

reactant | hexane | CCCCCC | C6H14
reactant | potassium hydride | 2 mmol, 0.08 g | [H-].[K+]
reactant | pyrazole | 2 mmol, 0.136 g | N1N=CC=C1 | C3H4N2
reactant | [1-(4-aminobenzenesulfonyl)-piperidin-4-ylmethyl]-carbamic acid t-butyl ester | 2 mmol, 0.745 g | C(C)(C)(C)OC(NCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)N)=O | C17H27N3O4S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [1-(4-(Pyrazol-1-yl)-benzenesulfonyl)-piperidin-4-ylmethyl]-carbamic Acid t-Butyl Ester | 0.258 g | C(C)(C)(C)OC(NCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)N1N=CC=C1)=O | C20H28N4O4S
